US08609660B2
NH4Cl (0.72 g, 13.4 mmol) was added to a stirred suspension of rac-4-(5-bromo-2,4-difluoro-phenyl)-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-thione (2.4 g, 6.7 mmol) in ammonia 2 M in EtOH (67 mL) and the mixture was heated at 85° C. for 18 hours. The solvent was removed in vacuo and the residue was suspended in DCM and washed with water. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica gel; 7 M solution of ammonia in methanol in AcOEt 0/100 to 20/80). The desired fractions were collected and concentrated in vacuo to yield rac-4-(5-bromo-2,4-difluoro-phenyl)-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-yl-amine (1.8 g, 78% yield) as a yellow solid.

reactant | NH4Cl | 13.4 mmol, 0.72 g | [NH4+].[Cl-]
reactant | rac-4-(5-bromo-2,4-difluoro-phenyl)-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-thione | 6.7 mmol, 2.4 g | BrC=1C(=CC(=C(C1)C1(C=2N(CC(N1)=S)N=CC2)C)F)F | C13H10BrF2N3S
solvent | ammonia | 2 M | N | H3N
solvent | EtOH | 67 mL | CCO | C2H6O
product | rac-4-(5-bromo-2,4-difluoro-phenyl)-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-yl-amine | 1.8 g, 78% yield | BrC=1C(=CC(=C(C1)C1(C=2N(C=C(N1)N)N=CC2)C)F)F | C13H11BrF2N4
